.SUBCKT baw56tt1 11 16
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 13, 00
* MODEL FORMAT: PSpice
rs 11 12 1.07829
vdsense 13 1 0
e9 12 13 value={1.83849*i(vdsense)/(1e+10*v(3)+0.00183849)}
r9 12 13 1e12
g1 1 16 value={v(7)+v(8)}
rdc2 2 0 1e12
e2 22 0 1 16 0.5
vqe 22 23 0
dqe 23 0 dqemod
.model dqemod d (is=1.28779e-08 n=0.978944 eg=0.928315 xti=2.99496)
h2 2 0 vqe 3.13112e-08
c3 3 0 100u
rdc3 3 0 1e12
d3 0 3 dqmod
.model dqmod d
vsense 4 5 0
f3 3 0 vsense 1
rdc6 6 0 1e12
e6 6 0 value={1.7227e+08*v(3)}
e4 4 0 value={v(6)-1.40333e+08*v(2)}
r5 5 0 10K
rdc7 7 0 1e12
e7 7 0 value={1.40333e+08*(v(2)-v(3))}
rdc8 8 0 1e12
e8 88 0 1 16 1
vie 88 89 0
die 89 0 diomod
.model diomod d (is=9.9922e-21)
h8 8 0 vie 1
dcj 12 16 dmod
.model dmod d(is=1e-25 n=10
+ cjo=1.86751e-12 vj=0.239325 m=0.25428)
.ends baw56tt1